US07528136B2
[(2S,4S)-1-Benzyl-4-(2,4-difluoro-benzylamino)-pyrrolidine-2-carbonyl]-piperidine-3-carboxylic acid ethyl ester
As described for Example 1f, 1-benzyl-4-[tert-butoxycarbonyl-(2,4-difluoro-benzyl)-amino]-pyrrolidine-2-carboxylic acid (60.0 mg, 0.134 mmol) was converted, using piperidine-3-carboxylic acid ethyl ester instead of 2-piperazin-1-yl-benzonitrile, to the title product [(2S,4S)-1-benzyl-4-(2,4-difluoro-benzylamino)-pyrrolidine-2-carbonyl]-piperidine-3-carboxylic acid ethyl ester (9.7 mg, 16% yield) as colorless oil. MS m/e=486.6 [M+H]+.

reactant | 1-benzyl-4-[tert-butoxycarbonyl-(2,4-difluoro-benzyl)-amino]-pyrrolidine-2-carboxylic acid | 0.134 mmol, 60.0 mg | C(C1=CC=CC=C1)N1C(CC(C1)N(CC1=C(C=C(C=C1)F)F)C(=O)OC(C)(C)C)C(=O)O | C24H28F2N2O4
reactant | piperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1CNCCC1 | C8H15NO2
product | [(2S,4S)-1-benzyl-4-(2,4-difluoro-benzylamino)-pyrrolidine-2-carbonyl]-piperidine-3-carboxylic acid ethyl ester | 9.7 mg, 16% yield | C(C)OC(=O)C1CN(CCC1)C(=O)[C@H]1N(C[C@H](C1)NCC1=C(C=C(C=C1)F)F)CC1=CC=CC=C1 | C27H33F2N3O3
